US08048909B2
1-[4-Chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride
Using 4-chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (301 mg), 40% methylamine methanol solution (195 mg) and sodium borohydride (106 mg), a procedure as in Example 9 was performed. Recrystallization from a mixed solvent of ethyl acetate and ethanol gave the title compound as colorless crystals (yield 146 mg, 42%).

reactant | 4-chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 301 mg | ClC=1C(=C(N(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C)C=O | C18H14ClNO3S
reactant | methylamine methanol | 195 mg | CO.CN
reactant | sodium borohydride | 106 mg | [BH4-].[Na+]
product | 1-[4-Chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride | yield 146 mg, 42% | Cl.ClC=1C(=C(N(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C)CNC | InChI=1S/C19H19ClN2O2S.ClH/c1-14-17(13-21-2)18(20)19(15-9-5-3-6-10-15)22(14)25(23,24)16-11-7-4-8-12-16;/h3-12,21H,13H2,1-2H3;1H
